US07632829B2
(rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-3-methyl-[1,4]diazepan-5-one
In analogy to the procedure described in intermediate 1A, (E)-3,4-dichlorocinnamic acid and 3-methyl-[1,4]diazepan-5-one gave the title compound as a white solid. MS: 327.2 (MH+).

reactant | (E)-3,4-dichlorocinnamic acid | ClC=1C=C(/C=C/C(=O)O)C=CC1Cl | C9H6Cl2O2
reactant | 3-methyl-[1,4]diazepan-5-one | CC1CNCCC(N1)=O | C6H12N2O
product | (rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-3-methyl-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CC(NC(CC1)=O)C | C15H16Cl2N2O2
